US06417213B2
To a solution of ethyl [(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate (1.30 g, 4.04 mmol) in N,N-dimethylformamide (20 mL) was added sodium hydride (60% dispersion in liquid paraffin, 178 mg, 4.45 mmol) at 0° C., and the mixture was stirred at room temperature for 10 minutes. To this mixture was added 1-chloro-2,4-dinitrobenzene (900 mg, 4.45 mmol) and the mixture was stirred at room temperature for 30 minutes. This reaction mixture was poured into water (30 mL) and extracted with 2 portions of ethyl acetate. The pooled organic layer was washed with water, dried over MgSO4, filtered, and concentrated under reduced pressure to provide ethyl [(2-(2,4-dinitrophenyl)thio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate (1.17 g). To a solution of this compound (1.17 g, 2.40 mmol) in a mixture of tetrahydrofuran (16 mL) and methanol (4 mL) was added 1N-aqueous sodium hydroxide (3.0 mL) dropwise and the mixture was stirred at room temperature for 20 minutes. After the solvent was distilled off water reduced pressure, 1N-hydrochloric acid was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to provide 0.91 g of the title compound. Yield 49%.

reactant | ethyl [(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate | 4.04 mmol, 1.30 g | SC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)OCC | C15H15NO3S2
reactant | sodium hydride | 4.45 mmol, 178 mg | [H-].[Na+]
reactant | 1-chloro-2,4-dinitrobenzene | 4.45 mmol, 900 mg | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | water | 30 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | ethyl [(2-(2,4-dinitrophenyl)thio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate | 1.17 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)OCC | C21H17N3O7S2
